US07915404B2
{2-[4-[1,3]Dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester
A solution of [3-(isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester (1.0 mg, 3.8 mmol), 2-[3-(4-fluoro-phenyl)-2-nitro-allyl]-[1,3]dioxolane (0.96 mg, 3.8 mmol), and Et3N (1.53 g, 15.2 mmol) in THF (40 mL) was stirred at 60° C. for 3 days. The mixture was cooled to rt, concentrated, and the residue purified by FCC to give the title compound.

reactant | [3-(isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester | 3.8 mmol, 1.0 mg | C(C1=CC=CC=C1)OC(NCCC=NNC(C)C)=O | C14H21N3O2
reactant | 2-[3-(4-fluoro-phenyl)-2-nitro-allyl]-[1,3]dioxolane | 3.8 mmol, 0.96 mg | FC1=CC=C(C=C1)C=C(CC1OCCO1)[N+](=O)[O-] | C12H12FNO4
reactant | Et3N | 15.2 mmol, 1.53 g | CCN(CC)CC | C6H15N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | {2-[4-[1,3]Dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCC1=NN(C(=C1CC1OCCO1)C1=CC=C(C=C1)F)C(C)C)=O | C26H30FN3O4
